US04451463
To a solution of 3-amino-1-(4-hydroxybutyl)pyrazole (1.0 g.) in dry acetonitrile (3 ml.) was slowly added phenylisothiocyanate (0.95 g.) and the mixture was stirred at room temperature for 17 hours. The solvent was evaporated and the residue purified by column chromatography on silica gel using EtOAc as eluant to give 1-(4-hydroxybutyl)-3-(3-phenylthioureido)pyrazole (0.54 g.; 29%), m.p. 112°-117°.

reactant | 3-amino-1-(4-hydroxybutyl)pyrazole | 1.0 g | NC1=NN(C=C1)CCCCO | C7H13N3O
reactant | phenylisothiocyanate | 0.95 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-(4-hydroxybutyl)-3-(3-phenylthioureido)pyrazole | 0.54 g, 29% | OCCCCN1N=C(C=C1)NC(=S)NC1=CC=CC=C1 | C14H18N4OS
